US07384934B2
(S)-6,7-Difluoro-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine (S)-6,7-difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene (207.2 mg, 0.55 mmol), formaldehyde (48.9 μL, 0.60 mmol, 37% in water), and dichloromethane (8.0 ml). Stir the mixture at ambient temperature for 5 minutes and then add sodium triacetoxyborohydride (174.0 mg, 0.82 mmol). After stirring for 30 minutes at ambient temperature, quench the reaction with saturated sodium bicarbonate. Remove the organic portion and wash (brine), dry (sodium sulfate), and reduce the extracts to residue. Purify the residue on silica gel using a gradient of dichloromethane to dichloromethane/methanol (90:10) to give 176.2 mg (82%) of the title compound: mass spectrum (ion spray): m/z=393.2 (M+1).

reactant | (S)-6,7-difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.55 mmol, 207.2 mg | FC=1C(=CC2=C(NC=3SC=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C1)F | C18H20F2N4OS
reactant | formaldehyde | 0.60 mmol, 48.9 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.82 mmol, 174.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 8.0 ml | ClCCl | CH2Cl2
product | (S)-6,7-Difluoro-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 176.2 mg, 82% | FC=1C(=CC2=C(NC=3SC=CC3C(=N2)N2C[C@@H](N(CC2)C)CCOC)C1)F | C19H22F2N4OS
